US05939451
0.11 g (0.00035 mol) of 4-amino-N-(2,6-dichloro-pyridin-4-yl)-benzenesulfonamide was stirred in 25 ml of liquid methylamine in an autoclave at 130° C. for 72 hours. After removal of the methylamine the residue was taken up in 5 ml of dichloro-methane/methanol 1:1, filtered and, after removal of the solvent, chromatographed on silica gel with hexane/ethyl acetate 3:1, 2:1 and finally 1:1. The product, obtained as a white, amorphous solid substance, was dissolved in 2 ml of methanol, treated with 2 ml of 2N HCl/methanol, diluted with 20 ml of diethyl ether and filtered off under suction. The material on the suction filter was washed well with diethyl ether and dried in a high vacuum. There was obtained 0.055 g (41%) of 4-amino-N-(2-chloro-6-methylamino-pyridin-4-yl)-benzenesulfonamide dihydrochloride (1:2) as white crystals; m.p.: >215° C. (dec.).

reactant | 4-amino-N-(2,6-dichloro-pyridin-4-yl)-benzenesulfonamide | 0.00035 mol, 0.11 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=NC(=C1)Cl)Cl | C11H9Cl2N3O2S
reactant | methylamine | CN | CH5N
reactant | HCl methanol | 2N, 2 ml | Cl.CO
solvent | methanol | 2 ml | CO | CH4O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 4-amino-N-(2-chloro-6-methylamino-pyridin-4-yl)-benzenesulfonamide dihydrochloride | 0.055 g, 41% | Cl.Cl.NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=NC(=C1)NC)Cl | InChI=1S/C12H13ClN4O2S.2ClH/c1-15-12-7-9(6-11(13)16-12)17-20(18,19)10-4-2-8(14)3-5-10;;/h2-7H,14H2,1H3,(H2,15,16,17);2*1H
